US05385904
Ethylenediaminium-N,N'-diacetyl-L-cystinate (Ib; R=H3NCH2CH2NH3):
To N,N'-diacetyl-L-cystine (30.9 mmol, 10 g) dissolved in 20 mL of water was added ethylenediamine (61.8 mmol, 3.73 g) and ethanol (30 mL). The solution was concentrated to a thick paste which was redissolved in 80 mL of ethanol. Crystallisation occurred after 2 hours stirring at 10° C. Filtration and drying gave 6.2 g (45%) of the title compound.

reactant | N,N'-diacetyl-L-cystine | 30.9 mmol, 10 g | C(C)(=O)N[C@@H](CSSC[C@@H](C(=O)O)NC(C)=O)C(=O)O | C10H16N2O6S2
reactant | ethylenediamine | 61.8 mmol, 3.73 g | C(CN)N | C2H8N2
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | Ethylenediaminium N,N'-diacetyl-L-cystinate | 6.2 g, 45% | C(C[NH3+])[NH3+].C(C)(=O)N[C@@H](CSSC[C@@H](C(=O)[O-])NC(C)=O)C(=O)[O-] | InChI=1S/C10H16N2O6S2.C2H8N2/c1-5(13)11-7(9(15)16)3-19-20-4-8(10(17)18)12-6(2)14;3-1-2-4/h7-8H,3-4H2,1-2H3,(H,11,13)(H,12,14)(H,15,16)(H,17,18);1-4H2/t7-,8-;/m0./s1
